US07429607B2
A solution of (5-methyl-4-oxo-4,5-dihydro-oxazol-2-yl)-carbamic acid tert-butyl ester (4.0 g), trifluoromethanesulfonic anhydride (4.7 mL), 2,6-lutidine (4.4 mL) and dichloromethane (50 mL) was stirred at room temperature for 3 days. The solvent was removed under reduced pressure and the resulting brown solid was washed with ethanol to afford trifluoro-methanesulfonic acid 2-tert-butoxycarbonylamino-5-methyl-oxazol-4-yl ester (2.0 g, 31%) as a white solid; 1H NMR (CDCl3): 1.5 (9H, s), 2.3 (3H, s), 7.55 (1H, br s); Mass Spectrum (m/z): 347 (M+H)+.

reactant | (5-methyl-4-oxo-4,5-dihydro-oxazol-2-yl)-carbamic acid tert-butyl ester | 4.0 g | C(C)(C)(C)OC(NC=1OC(C(N1)=O)C)=O | C9H14N2O4
reactant | trifluoromethanesulfonic anhydride | 4.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 4.4 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-tert-butoxycarbonylamino-5-methyl-oxazol-4-yl ester | 2.0 g, 31% | C(C)(C)(C)OC(=O)NC=1OC(=C(N1)OS(=O)(=O)C(F)(F)F)C | C10H13F3N2O6S
